US07452911B2
2.20c 5-(2,4-dichloro-phenyl)-2-[4-(4-pyrrolidin-1-ylmethyl-phenyl)-but-1-ynyl]-pyridine
10 mg (0.01 mmol) tetrakis-triphenylphosphane-palladium are added to a suspension of 60 mg (0.16 mmol) 5-bromo-2-[4-(4-pyrrolidin-1-ylmethyl-phenyl)-but-1-ynyl]-pyridine and 63 mg (0.32 mmol) 2,4-dichlorophenylboric acid in 4 mL 1,4-dioxane and 1 mL 2 M Na2CO3 solution and the reaction mixture is stirred for 1 h at 110° C. The mixture is evaporated down i.vac. and the residue is extracted twice with in each case 15 mL EtOH. The solvent is removed and the residue is purified by HPLC.

reactant | 5-bromo-2-[4-(4-pyrrolidin-1-ylmethyl-phenyl)-but-1-ynyl]-pyridine | 0.16 mmol, 60 mg | BrC=1C=CC(=NC1)C#CCCC1=CC=C(C=C1)CN1CCCC1 | C20H21BrN2
reactant | 2,4-dichlorophenylboric acid | 0.32 mmol, 63 mg | ClC1=C(C=CC(=C1)Cl)OB(O)O | C6H5BCl2O3
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 2 M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 5-(2,4-dichloro-phenyl)-2-[4-(4-pyrrolidin-1-ylmethyl-phenyl)-but-1-ynyl]-pyridine | ClC1=C(C=CC(=C1)Cl)C=1C=CC(=NC1)C#CCCC1=CC=C(C=C1)CN1CCCC1 | C26H24Cl2N2
